US07550478B2
N-[3-(4-isopropylpiperazin-1-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]methanesulfonamide
N-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide (0.050 g, 0.15 mmol), isopropylpiperazine (0.038 g, 0.30 mmol), Pd2(dba)3 (1.5 mg, 0.0015 mmol), BINAP (3.0 mg, 0.0045 mmol), and sodium tert-butoxide (0.043 g, 0.45 mmol) were added to a dry flask through which argon was purged. 3.0 mL dry dioxane was added and argon was bubbled through the solution for 5 minutes. The reaction was stirred and heated to 105° C. After 12 hours, the reaction mixture was poured into 100 mL ethyl acetate, 100 mL water, and 25 mL saturated ammonium chloride. The organic layer was separated, dried with magnesium sulfate, filtered, concentrated, and purified by reverse phase HPLC (20-100% acetonitrile/water gradient, 0.1% trifluoroacetic acid modifier) to afford the title compound.

reactant | N-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide | 0.15 mmol, 0.050 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)NS(=O)(=O)C | C15H11ClN2O3S
reactant | isopropylpiperazine | 0.30 mmol, 0.038 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | BINAP | 0.0045 mmol, 3.0 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.45 mmol, 0.043 g | CC(C)([O-])C.[Na+]
catalyst | Pd2(dba)3 | 0.0015 mmol, 1.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[3-(4-isopropylpiperazin-1-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]methanesulfonamide | C(C)(C)N1CCN(CC1)C=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)NS(=O)(=O)C | C22H26N4O3S
